US06329405B1
(33a) N-[(3-Nitrophenyl)-(4-methoxyphenyl)methyl]-N-[1-(4-acetoxyphenyl)-ethyl]amine
In a similar manner to that described in Example (1a), 4-methoxy-3′-nitrobenzophenone (500 mg), 4-(1-aminoethyl)phenyl acetate hydrochloride (1.0 g), triethylamine (1.63 ml), titanium tetrachloride (0.26 ml), sodium cyanoborohydride (543 mg) and acetic acid (0.17 ml) were reacted, to afford the title compound (215 mg) as a yellow oil.

reactant | 4-methoxy-3′-nitrobenzophenone | 500 mg | COC1=CC=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C14H11NO4
reactant | 4-(1-aminoethyl)phenyl acetate hydrochloride | 1.0 g | Cl.C(C)(=O)OC1=CC=C(C=C1)C(C)N
reactant | triethylamine | 1.63 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 543 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.26 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.17 ml | C(C)(=O)O | C2H4O2
product | N-[(3-Nitrophenyl)-(4-methoxyphenyl)methyl]-N-[1-(4-acetoxyphenyl)-ethyl]amine | 215 mg | [N+](=O)([O-])C=1C=C(C=CC1)C(NC(C)C1=CC=C(C=C1)OC(C)=O)C1=CC=C(C=C1)OC | C24H24N2O5
